US07705154B2
Step 4. Preparation of 5-(1-Methylthioethyl)-2-trifluoromethylpyridine
A solution of 5-(1-bromoethyl)-2-trifluoromethylpyridine (1.02 g, 4.0 mmol) in ethanol (30 mL) was cooled to 0° C. under an atmosphere of nitrogen. Sodium methyl mercaptide (364 mg, 5.2 mmol) was added batchwise. Once added, the ice bath was removed and the reaction stirred at room temperature under nitrogen overnight. TLC (9:1, hexane:EtOAc) showed complete reaction. The turbid solution was quenched with water and extracted with ether. The organic layer was then washed with brine and dried (MgSO4). The solvent was removed in vacuo to provide the crude product as a pale yellow liquid, 0.83 g (93%); 1H NMR (CDCl3) δ 8.65 (s, 1H), 7.89 (d, 1H), 7.67 (d, 1H), 3.93 (q, 1H), 1.94 (s, 3H), 1.62 (d, 3H).

reactant | 5-(1-bromoethyl)-2-trifluoromethylpyridine | 4.0 mmol, 1.02 g | BrC(C)C=1C=CC(=NC1)C(F)(F)F | C8H7BrF3N
reactant | Sodium methyl mercaptide | 5.2 mmol, 364 mg | C[S-].[Na+]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 5-(1-Methylthioethyl)-2-trifluoromethylpyridine | CSC(C)C=1C=CC(=NC1)C(F)(F)F | C9H10F3NS
